US08168648B2
To a solution of (S)-(−)-ethyl 2-(tert-butyldimethylsilyloxy)propanoate (10.0 g, 43.04 mmol) in THF (430 mL) at 0° C. was added an aqueous LiOH solution (0.2 M, 430 mL). After stirring at room temperature for 5 hr, the reaction mixture was concentrated to 50% of the original volume and extracted with petroleum ether (2×80 mL). The ether extracts were combined and extracted with a saturated aqueous NaHCO3 solution (80 mL). The aqueous layers were combined and acidified to pH 3 to 4 with an aqueous KHSO4 solution (1 M, 175 mL). The aqueous solution was extracted with petroleum ether (3×300 mL) and the combined organic layers were dried over Na2SO4 and concentrated to afford 6.96 g of (S)-(−)-2-(tert-butyldimethylsilyloxy)propanoic acid as colorless oil (79% yield). 1H NMR (CDCl3): δ 4.26 (q, 1H, J=6.8 Hz, —CH), 1.35 (d, 3H, J=6.8 Hz, —CH3), 0.82 (s, 9H, Si—(CH3)3), 0.03 (s, 3H, Si—CH3), 0.02 (s, 3H, Si—CH3).

reactant | (S)-(−)-ethyl 2-(tert-butyldimethylsilyloxy)propanoate | 43.04 mmol, 10.0 g | [Si](C)(C)(C(C)(C)C)O[C@H](C(=O)OCC)C | C11H24O3Si
reactant | LiOH | 0.2 M, 430 mL | [Li+].[OH-]
solvent | THF | 430 mL | C1CCOC1 | C4H8O
product | (S)-(−)-2-(tert-butyldimethylsilyloxy)propanoic acid | 6.96 g, 79% yield | [Si](C)(C)(C(C)(C)C)O[C@H](C(=O)O)C | C9H20O3Si
